* source LAB_REAB_6
L_L3         N15497 0  1000uH  
V_V1         N15486 0  AC 1
+SIN 0 5 50k 0 0 0
R_R2         0 N15493  10k TC=0,0 
R_R7         0 N15497  1k TC=0,0 
R_R8         N15497 N15493  1k TC=0,0 
R_R9         N15493 N15486  1k TC=0,0 
V_V2         N17878 0  AC 1
+SIN 0 5 50k 0 0 0
R_R13         0 N17888  10k TC=0,0 
R_R10         N17888 N17878  1k TC=0,0 
R_R11         N17922 N17888  1k TC=0,0 
R_R12         0 N17922  1k TC=0,0 
